US05478851
5-(4-[2-(N-Benzoyl-N-methylamino)ethoxy]benzyl)-2,4-thiazolidinedione.
5-(4-[2-(N-Benzoyl-N-methylamino)ethoxy]benzylidene)-2,4-thiazolidinedione (4.01 g) was dissolved in dioxan (400 ml) and hydrogenated at room temperature and pressure in the presence of 10% palladium-charcoal (4 g) for 3.5 hours. A further portion of catalyst (4 g) was added, and the reaction continued for a total of 52 hours. The reaction mixture was filtered through diatomaceous earth, and the solvent evaporated. The resulting gum was recrystallised from dichloromethane-diethyl ether to afford the title compound, mp 139-142° C.

reactant | 5-(4-[2-(N-Benzoyl-N-methylamino)ethoxy]benzylidene)-2,4-thiazolidinedione | 4.01 g | C(C1=CC=CC=C1)(=O)N(C)CCOC1=CC=C(C=C2C(NC(S2)=O)=O)C=C1 | C20H18N2O4S
solvent | dioxan | 400 ml | O1CCOCC1 | C4H8O2
catalyst | palladium-charcoal | 4 g | [Pd] | Pd
product | 5-(4-[2-(N-Benzoyl-N-methylamino)ethoxy]benzyl)-2,4-thiazolidinedione | C(C1=CC=CC=C1)(=O)N(C)CCOC1=CC=C(CC2C(NC(S2)=O)=O)C=C1 | C20H20N2O4S
